US05359098
2-Cyclopentyl-6-[6-(4-Hydroxypiperidyl)hexoxy]-4H-1-benzopyran-4-one hydrochloride
The reaction between 6-(6-chlorohexoxy)-2-cyclopentyl-4H-1-benzopyran-4-one and 4-hydroxypiperidine was carried out in a manner similar to that of Example 3: mp 125°-126° C.

reactant | 6-(6-chlorohexoxy)-2-cyclopentyl-4H-1-benzopyran-4-one | ClCCCCCCOC=1C=CC2=C(C(C=C(O2)C2CCCC2)=O)C1 | C20H25ClO3
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-Cyclopentyl-6-[6-(4-Hydroxypiperidyl)hexoxy]-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCCC1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCC(CC2)O | InChI=1S/C25H35NO4.ClH/c27-20-11-14-26(15-12-20)13-5-1-2-6-16-29-21-9-10-24-22(17-21)23(28)18-25(30-24)19-7-3-4-8-19;/h9-10,17-20,27H,1-8,11-16H2;1H
